US06025390
Benzothiophen-2-carboxaldehyde.
LiA1H4 (7.6 g, 200 mmol) was suspended under stirring at 0° under Ar in anhydrous THF (400 ml), then N-methylpiperazine dihydrochloride (17.3 g, 100 mmol) was added portionwise in 10 min. N-methylpiperazine (30 g, 300 mmol) was then added dropwise, the mixture was warmed to RT and stirring continued for 2 hours. The surnatant of this suspension was then added by syringe to a stirred solution at 0° under Ar of benzothiophen-2-carboxylic acid (7.13 g, 40.0 mmol) in anhydrous THF (200 ml). The mixture was refluxed for 4 hours and after the same procedure as in preparation 6 pure title compound was obtained (4.6 g, 28.4 mmol, yield 70.9%) as dark orange crystals.

reactant | N-methylpiperazine dihydrochloride | 100 mmol, 17.3 g | Cl.Cl.CN1CCNCC1
reactant | N-methylpiperazine | 300 mmol, 30 g | CN1CCNCC1 | C5H12N2
reactant | benzothiophen-2-carboxylic acid | 40.0 mmol, 7.13 g | S1C(=CC2=C1C=CC=C2)C(=O)O | C9H6O2S
solvent | THF | 400 ml | C1CCOC1 | C4H8O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | Benzothiophen-2-carboxaldehyde | yield 70.9% | S1C(=CC2=C1C=CC=C2)C=O | C9H6OS
